A test of the Yakopcic memristor device
*
* This test compares a Yakopcic memristor device to one defined in a subcircuit
*
* The pairs of output columns should be the same for the two memristors
*
* i.e.
*  v(n1,n2) == v(n1,n3)
*  i(ymemristor!mr1) == i(rptg2)
*  n(ymemristor!mr1_x) == v(n4)

*vsrc n1 0  sin( 0 0.5 100 0 )
ydac dac_driver1 n1 0

ymemristor mr1 n1 n2 mrm1 xo=0.11
rptg1 n2 0 50
yadc adc1 n2 0 simpleADC R=1T

xmr1 n1 n3 n4 mem_dev
rptg2 n3 0 50

yadc adc2 n3 0 simpleADC R=1T

.model mrm1 memristor level=3 a1=0.17 a2=0.17 b=0.05 vp=0.16 vn=0.15
+ ap=4000 an=4000 xp=0.3 xn=0.5 alphap=1 alphan=5 eta=1

.model simpleADC ADC(settlingtime=5ns uppervoltagelimit=5 lowervoltagelimit=-5)

.model simpleDAC DAC(tr=5e-9 tf=5e-9)

.print tran  v(n1) v(n1,n2) v(n1,n3) i(ymemristor!mr1) i(rptg2) n(ymemristor!mr1_x) v(n4)

.measure tran ymemristorRes eqn {n(ymemristor!mr1:r)}


.tran 0 20e-4

*
* From:
* Generalized Memristive Device SPICE Model and
* its Application in Circuit Design
* Chris Yakopcic, Tarek M Taha, Guru Subramanyam, Robinson Pino
* IEEE Transactions on Computer-Aided Design of Integrated Circuits and Systems
* Vol 32, No. 8, August 2013
* DOI: 10.1109/TCAD.2013.2252057
*
* SPICE model for memristive devices
* Created by Chris Yakopcic
* Last Update: 12/21/2011
*
* Connections:
* TE - top electrode
* BE - bottom electrode
* XSV - External connection to plot state variable
*       that is not used otherwise

.subckt mem_dev TE BE XSV PARAMS:
+ a1=0.17
+ a2=0.17
+ b=0.05
+ Vp=0.16
+ Vn=0.15
+ AP=4000
+ An=4000
+ xp=0.3
+ xn=0.5
+ alphap=1
+ alphan=5
+ xo=0.11
+ eta=1

*
* Fitting parameters to model different devices
* a1, a2, b:      Parameters for IV relationship
* Vp, Vn:         Pos. and Neg. voltage thresholds
* Ap, An:         Multiplier for SV motion intensity
* xp, xn:         Points where SV motion is reduced
* alphap, alphan: Rate at which SV motion decays
* xo:             Initial value of SV
* eta:            SV direction relative to voltage

* Multiplicative functions to ensure zero state
* variable motion at memristor boundaries
.func wp(V) {(xp-V)/(1-xp) + 1}
.func wn(V) {V/(1-xn)}

* Functin G(V(t)) - Describes the device threshold
.func G(V) {IF( V <= Vp, IF( V >= -Vn, 0, -An*(exp(-V)-exp(Vn))), Ap*(exp(V)-exp(Vp))) }

* Function F(V(t), x(t)) - Describes the SV motion
.func F(V1,V2) {IF( eta*V1 >= 0, IF( V2 >= xp, exp(-alphap*(V2-xp))*wp(V2), 1),
+ IF(V2 <= (1-xn), exp(alphan*(V2+xn-1))*wn(V2), 1))}

* IV Response - Hyperbolic sine due to MIN structure
.func IVRel(V1, V2) {IF( V1 >= 0, a1*V2*sinh(b*V1), a2*V2*sinh(b*V1))}

* Circuit to determine state variable
Cx XSV 0 1 IC={xo}
*.ic V(XSV) = xo
Gx 0 XSV value={eta*F((V(TE)-V(BE)), V(XSV)) * G(V(TE)-V(BE))}
* Current source for memristor IV response
Gm TE BE value = {IVRel(V(TE,BE), V(XSV,0))}

.ends meme_dev

*COMP V(N1) offset=0.1
*COMP V(N1,N2) offset=0.1
*COMP V(N1,N3) offset=0.1
*COMP I(YMEMRISTOR!MR1) offset=0.1
*COMP I(RPTG2) offset=0.1

.end
